US07456200B2
5-(5-Chloro-thiophen-3-yl)-3-(4-ethyl-5-furan-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole
The title compound was prepared according to method for 2-[5-(3-Methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethylsulfanyl]-1H-benzoimidazole, with the exception of using molar equivalent cesium carbonate instead of potassium carbonate as the base, from 1-[5-(5-chloro-thiophen-3-yl)-[1,2,4]oxadiazol-3-ylmethoxy]-1H-benzotriazole (32.3 mg, 0.097 mmol) and 4-ethyl-5-furan-2-yl-2,4-dihydro-[1,2,4]triazole-3-thione (23 mg) by using 50% EtOAc in n-heptane as chromatography eluent to yield 21 mg. 1H NMR (CDCl3) d (ppm): 7.95 (d, 1H), 7.57 (dd, 1H), 7.44 (d, 1H), 7.07 (dd, 1H), 6.56 (dd, 1H), 4.56 (s, 2H), 4.22 (q, 2H), 1.35 (t, 3H).

reactant | 2-[5-(3-Methoxy-phenyl)-[1,2,4]oxadiazol-3-ylmethylsulfanyl]-1H-benzoimidazole | COC=1C=C(C=CC1)C1=NC(=NO1)CSC1=NC2=C(N1)C=CC=C2 | C17H14N4O2S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-[5-(5-chloro-thiophen-3-yl)-[1,2,4]oxadiazol-3-ylmethoxy]-1H-benzotriazole | 0.097 mmol, 32.3 mg | ClC1=CC(=CS1)C1=NC(=NO1)CON1N=NC2=C1C=CC=C2 | C13H8ClN5O2S
reactant | 4-ethyl-5-furan-2-yl-2,4-dihydro-[1,2,4]triazole-3-thione | 23 mg | C(C)N1C(NN=C1C=1OC=CC1)=S | C8H9N3OS
solvent | n-heptane | CCCCCCC | C7H16
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(5-Chloro-thiophen-3-yl)-3-(4-ethyl-5-furan-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazole | ClC1=CC(=CS1)C1=NC(=NO1)CSC1=NN=C(N1CC)C=1OC=CC1 | C15H12ClN5O2S2
